US06989402B1
3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-nitrobenzenesulphonamide
3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid (, 0.035 mmol) was coupled with 4-nitrophenylsulfonamid (0.175 mmol) using the method described in Example 58. Purification on HPLC of the residue gave 8 mg (37%) of the title compound.

reactant | 3,5-Dibromo-4-(4-methoxy-3-isopropylphenoxy)benzoic acid | 0.035 mmol | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br | C17H16Br2O4
reactant | 4-nitrophenylsulfonamid | 0.175 mmol | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
product | 3,5-Dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoyl-4-nitrobenzenesulphonamide | 8 mg, 37% | BrC=1C=C(C(=O)C2=C(C=CC(=C2)[N+](=O)[O-])S(=O)(=O)N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C22H18Br2N2O7S
